US06271406B1
Preparation of 1,2-bis(chlorodiethylsilyl)ethane C10H22Si2Cl2
Example 1 was repeated with the modification that, instead of 300.0 g (1.41 mol) of 1,2-bis(chlorodimethylsilyl)ethene, 300.0 g (1.11 mol) of 1,2-bis(chlorodiethylsilyl)ethene were used. The results are summarized in Table 1.

reactant | 1,2-bis(chlorodimethylsilyl)ethene | 1.41 mol, 300.0 g | Cl[Si](C=C[Si](C)(C)Cl)(C)C | C6H14Cl2Si2
reactant | 1,2-bis(chlorodiethylsilyl)ethene | 1.11 mol, 300.0 g | Cl[Si](C=C[Si](CC)(CC)Cl)(CC)CC | C10H22Cl2Si2
product | 1,2-bis(chlorodiethylsilyl)ethane | Cl[Si](CC[Si](CC)(CC)Cl)(CC)CC | C10H24Cl2Si2
